US07902181B2
d) (S)-tert-Butyl 1-amino-3-(6-bromopyridin-3-yl)-1-oxopropan-2-ylcarbamate
(S)-3-(6-Bromopyridin-3-yl)-2-(tert-butoxycarbonylamino)propanoic acid (1.72 g), N-ethylmorpholine (1.261 mL) and TBTU (2.4 g) were combined in DMF (5 mL) and the solution was stirred, at room temperature for 0.5 h then it was cooled to 0° C. Aqueous 880 ammonia (0.827 mL) was added and the mixture was allowed to reach RT overnight. The reaction mixture was diluted with ethyl acetate, washed with water then brine, dried over magnesium sulfate, filtered and concentrated in vacuo to give the sub-title compound (1.5 g).

reactant | (S)-3-(6-Bromopyridin-3-yl)-2-(tert-butoxycarbonylamino)propanoic acid | 1.72 g | BrC1=CC=C(C=N1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C13H17BrN2O4
reactant | N-ethylmorpholine | 1.261 mL | C(C)N1CCOCC1 | C6H13NO
reactant | TBTU | 2.4 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | ammonia | 0.827 mL | N | H3N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-tert-Butyl 1-amino-3-(6-bromopyridin-3-yl)-1-oxopropan-2-ylcarbamate | 1.5 g | NC([C@H](CC=1C=NC(=CC1)Br)NC(OC(C)(C)C)=O)=O | C13H18BrN3O3
